US05624935
5-{4-(3-Methyl-5-phenylthio-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione.
A procedure similar to that described in Preparation 4 was repeated, except that 0.70.g of 2-hydroxymethyl-3-methyl-5-phenylthio-3H-imidazo[4,5-b]pyridine (prepared as described in Preparation 90), 1.20 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 0.64 ml of tributylphosphine, 0.65 g of 1,1'-(azodicarbonyl)dipiperidine and 25 ml of toluene were used, and that the product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.61 g of the title compound, melting at 90°-95° C. (softening).

reactant | 2-hydroxymethyl-3-methyl-5-phenylthio-3H-imidazo[4,5-b]pyridine | OCC1=NC=2C(=NC(=CC2)SC2=CC=CC=C2)N1C | C14H13N3OS
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 1.20 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.64 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 0.65 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(3-Methyl-5-phenylthio-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.61 g | CN1C(=NC=2C1=NC(=CC2)SC2=CC=CC=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C43H34N4O3S2
